US07067529B2
To a solution of 1-(3-hydroxybenzyl)-6,7-dimethoxy-4-ethoxycarbonylisoquinoline (367 mg, 1.0 mmol) in 10 ml of ethyl acetate was added selenium dioxide (166 mg, 1.50 mmol) and the mixture was refluxed for 1.5 hr until all starting material was consumed. The mixture was filtered through a layer of silica gel and washed with ethyl acetate. After evaporation of solvents, a solid was obtained as 1-(3-hydroxybenzoyl)-6,7-dimethoxy-4-ethoxycarbonylisoquinoline (370 mg). This solid (325 mg, 0.85 mmol) was dissolved in 3 mL of DMF and the stirring solution was treated with potassium carbonate (300 mg, 2.17 mmol) followed by t-butyl-2-bromoisobutyrate (210 mg, 0.94 mmol). The resulting mixture was heated (50° C. in an oil-bath) and stirred for 25 hours. Mass spectrum and TLC indicated partial conversion to the desired product and additional potassium carbonate (330 mg, 2.17 mmol) and isobutyrate (210 mg, 0.94 mmol) were added. The mixture was heated with stirring for additional 25 hours. The reaction mixture was evaporated and the residue was partitioned with ethyl acetate (50 ml) and brine (25 ml). The organic layer was dried over sodium sulfate, filtered and evaporated to give an oil which was purified by silica gel chromatography, using gradient mixtures of ethyl acetate and hexanes, to produce 248 mg of the isobutyrate as a yellow oil.

reactant | 1-(3-hydroxybenzyl)-6,7-dimethoxy-4-ethoxycarbonylisoquinoline | 1.0 mmol, 367 mg | OC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC)C(=O)OCC)C=CC1 | C21H21NO5
reactant | selenium dioxide | 1.50 mmol, 166 mg | [Se](=O)=O | O2Se
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-hydroxybenzoyl)-6,7-dimethoxy-4-ethoxycarbonylisoquinoline | 370 mg | OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC)C(=O)OCC)C=CC1 | C21H19NO6
